US08980929B2
Step D: tert-Butyl[(2R,3S)-2-(2,5-difluorophenyl)-5-hydroxytetrahydro-2H-thiopyran-3-yl]carbamate
(5S,6R)-6-(2,5-Difluorophenyl)-5-nitrotetrahydro-2H-thiopyran-3-ol (1.75 g, 6.36 mmol) and Zn dust (3.5 g, 53.5 mmol) were suspended in EtOH (50 mL) and cooled in an ice bath. 6N HCl (19.4 mL, 116.4 mmol) was added dropwise over 13 min to give a suspension. After 120 min, 5N NaOH (22.6 mL, 113 mmol) was added to give a heavy suspension. A solution of BOC2O (2.03 mL, 8.84 mmol) in Et2O (42 mL) was then added and the suspension was stirred rapidly in the ice bath. After 120 min, additional BOC2O (200 μL, 0.87 mmol) was added and the solution was slowly warmed to room temperature and stirred for an additional 18 h. The organic phase was decanted and the precipitated solids were extracted with 20% EtOH/EtOAc (4×50 mL), the organic phase was combined and evaporated to give an orange oil. The oil was suspended in 1:1 EtOAc/hexanes and loaded onto a 2.75×30 cm silica gel column eluting with 1:1 EtOAc/hexanes and collecting 8 mL fractions. Fractions containing the product were combined and evaporated to give the title compound.

reactant | (5S,6R)-6-(2,5-Difluorophenyl)-5-nitrotetrahydro-2H-thiopyran-3-ol | 6.36 mmol, 1.75 g | FC1=C(C=C(C=C1)F)[C@@H]1[C@H](CC(CS1)O)[N+](=O)[O-] | C11H11F2NO3S
reactant | HCl | 116.4 mmol, 6N, 19.4 mL | Cl | ClH
reactant | NaOH | 113 mmol, 5N, 22.6 mL | [OH-].[Na+]
reactant | BOC2O | 8.84 mmol, 2.03 mL | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | BOC2O | 0.87 mmol, 200 μL | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | Et2O | 42 mL | CCOCC | C4H10O
catalyst | Zn | 53.5 mmol, 3.5 g | [Zn] | Zn
product | tert-Butyl[(2R,3S)-2-(2,5-difluorophenyl)-5-hydroxytetrahydro-2H-thiopyran-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1[C@H](SCC(C1)O)C1=C(C=CC(=C1)F)F)=O | C16H21F2NO3S
